US04963566
To a suspension of methyltriphenyl phosphonium bromide (11.85 g) in tetrahydrofuran (100 ml), n-butyl lithium (10.2 ml) was added dropwise with stirring in nitrogen flow at -40° C. The temperature was raised to -20° C. over 30 minutes, a solution of 8-(t-butyldimethylsilyloxymethyl)-4-oxo-1-ethyl-1,2,3,4-tetrahydroquinoline (3.8 g) in tetrahydrofuran (100 ml) was added dropwise thereto. The temperature was raised gradually to the room temperature, the mixture was stirred for 2.5 hours. Water was added to the reaction mixture, and the mixture was extracted with dichloromethane and dried, then the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography [eluent: n-hexane-ethyl acetate (8:1)]to give 8-(t-butyldimethylsilyloxymethyl)-4-methylene-1-ethyl-1,2,3,4tetrahydroquinoline (3.4 g).

reactant | 8-(t-butyldimethylsilyloxymethyl)-4-oxo-1-ethyl-1,2,3,4-tetrahydroquinoline | 3.8 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)=O | C18H29NO2Si
reactant | Water | O | H2O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenyl phosphonium bromide | 11.85 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | n-butyl lithium | 10.2 ml | C(CCC)[Li]
product | 8-(t-butyldimethylsilyloxymethyl)-4-methylene-1-ethyl-1,2,3,4tetrahydroquinoline | 3.4 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)=C | C19H31NOSi
